US08859577B2
A slurry of 5-bromo-6-chloronicotinic acid (240 mg, 1.0 mmol) and sodium ethoxide (138 mg, 2.0 mmol) in anhydrous ethanol (2 mL) was heated under microwave conditions at 100° C. for 15 min; an additional portion of sodium ethoxide (79 mg, 1.0 mmol) was added and heating was continued for 1 hr. After cooling the reaction mixture was adjusted to a pH of 4 with 1 N aqueous hydrochloric acid, the resulting solids collected and dried in vacuo to afford 5-bromo-6-ethoxynicotinic acid (140 mg). 1H NMR (400 MHz, DMSO-d6) d ppm 1.33 (t, J=7.02 Hz, 3H) 4.43 (q, J=7.09 Hz, 2H) 8.32 (d, J=2.15 Hz, 1H) 8.64 (d, J=1.95 Hz, 1H) 13.28 (br. s., 1H); m/z=248.2 (M+1).

reactant | 5-bromo-6-chloronicotinic acid | 1.0 mmol, 240 mg | BrC=1C(=NC=C(C(=O)O)C1)Cl | C6H3BrClNO2
reactant | sodium ethoxide | 2.0 mmol, 138 mg | [O-]CC.[Na+]
reactant | sodium ethoxide | 1.0 mmol, 79 mg | [O-]CC.[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 5-bromo-6-ethoxynicotinic acid | 140 mg | BrC=1C(=NC=C(C(=O)O)C1)OCC | C8H8BrNO3
